US06933304B2
Tert-butyl 4-cyano-3,3-dimethylbutanoate
Tert-butyl 5-amino-3,3-dimethyl-5-oxopentanoate (3.17 g, 14.7 mmol) was dissolved in dioxane (32 mL) containing pyridine (8 mL) and the solution was cooled to 0° C. Trifluoroacetic anhydride was added dropwise over 25 minutes keeping the temperature between 0-5° C. The mixture was stirred at 0° C. for one hour and then at room temperature overnight. A few chips of ice were added, followed by ethyl acetate (250 mL). The ethyl acetate was washed with brine, dried (Na2SO4) and removed under reduced pressure. The residue was purified by flash chromatography 7:3 (hexane:ethyl acetate) to give 2.1 g (72%) of the desired product. 1H NMR (CDCl3) 2.44 (s, 2H), 2.21 (s, 2H), 1.39 (s, 9H), 1.10 (s, 6H).

reactant | Tert-butyl 5-amino-3,3-dimethyl-5-oxopentanoate | 14.7 mmol, 3.17 g | NC(CC(CC(=O)OC(C)(C)C)(C)C)=O | C11H21NO3
reactant | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
reactant | Trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 32 mL | O1CCOCC1 | C4H8O2
product | Tert-butyl 4-cyano-3,3-dimethylbutanoate | 2.1 g, 72% | C(#N)CC(CC(=O)OC(C)(C)C)(C)C | C11H19NO2
